US09290465B2
To a solution of [3-(4-hydroxy-phenyl)-isoxazol-4-yl]-carbamic acid tert-butyl ester (68 mg, 0.247 mmol), phenethyl alcohol (30 μL, 0.25 mmol)) and triphenylphosphine (136 mg, 0.52 mmol) in THF (1.5 mL) at 0° C. was added diethylazodicarboxylate (100 μL, 0.55 mmol) over 1.5 h. The reaction mixture was warmed to 90° C. for 62 h and cooled to rt. Volatiles were removed under reduced pressure and the crude product was dry-loaded onto silica gel. Chromatography provided [3-(5-phenethyloxy-pyridin-2-yl)-isoxazol-4-yl]-carbamic acid tert-butyl ester (60 mg, 64%).

reactant | [3-(4-hydroxy-phenyl)-isoxazol-4-yl]-carbamic acid tert-butyl ester | 0.247 mmol, 68 mg | C(C)(C)(C)OC(NC=1C(=NOC1)C1=CC=C(C=C1)O)=O | C14H16N2O4
reactant | phenethyl alcohol | 0.25 mmol, 30 μL | C(CC1=CC=CC=C1)O | C8H10O
reactant | triphenylphosphine | 0.52 mmol, 136 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 0.55 mmol, 100 μL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | [3-(5-phenethyloxy-pyridin-2-yl)-isoxazol-4-yl]-carbamic acid tert-butyl ester | 60 mg, 64% | C(C)(C)(C)OC(NC=1C(=NOC1)C1=NC=C(C=C1)OCCC1=CC=CC=C1)=O | C21H23N3O4
